US08309718B2
Step 1: 3-(4-(2-chloro-5-methoxypyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile
A mixture of 2,4-dichloro-5-methoxypyrimidine (0.68 g, 3.8 mmol), 3-cyclopentyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile (1.0 g, 3.17 mmol), tetrakis(triphenylphosphine)palladium (200 mg, 0.2 mmol), and potassium phosphate (2.0 g, 9.6 mmol) in 1,4-dioxane (9 mL) and water (0.9 mL) was heated at 100° C. overnight. After cooling to room temperature, the mixture was diluted with EtOAc, washed with water, brine, dried over MgSO4, concentrated. The residue was purified on silica gel, eluting with 0 to 60% EtOAc-hexanes, to give the desired product (860 mg, 82%). LCMS (M+H) 331.9.

reactant | 2,4-dichloro-5-methoxypyrimidine | 3.8 mmol, 0.68 g | ClC1=NC=C(C(=N1)Cl)OC | C5H4Cl2N2O
reactant | 3-cyclopentyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile | 3.17 mmol, 1.0 g | C1(CCCC1)C(CC#N)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H26BN3O2
reactant | potassium phosphate | 9.6 mmol, 2.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.9 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.2 mmol, 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-(2-chloro-5-methoxypyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile | 860 mg, 82% | ClC1=NC=C(C(=N1)C=1C=NN(C1)C(CC#N)C1CCCC1)OC | C16H18ClN5O
